US04455422
2.8 Grams of 6-(4-chloro-4-butenyl)-3,4-dihydrocarbostryil and 2.1 g of sodium iodide were mixed into 40 ml of dimethylformamide and the mixture was stirred at 50° C. for 1 hour. Then into the reaction mixture was added 2.0 g of morpholine and 2.0 ml of triethylamine and was stirred at 50° C. for 1 hours. The reaction mixture was concentrated under a reduced pressure to obtain a residue and 50 ml of 5%-sodium hydrogencarbonate aqueous solution was added therein and stirred. Next, the insoluble matters formed in the mixture were collected by filtration, and were washed with water and then recrystallized from ethanol to obtain 2.2 g of 6-(4-morpholino-1-butenyl)-3,4-dihydrocarbostyril, having the melting point of 136°-139° C. in colorless needle-like crystals. Next, 2.2 g of 6-(4-morpholino-1-butenyl)-3,4-dihydrocarbostyril and 0.2 g of platinum black were mixed into 100 ml of ethanol and was subjected to catalytic reduction under 3 kg/cm2 of hydrogen gas at a room temperature for 5 hours. The reaction mixture was filtered and the mother liquor was concentratd under a reduced pressure to obtain a residue. The residue was recrystallized from ligroinbenzene to obtain 1.8 g of 6-(4-morpholinobutyl)-3,4-dihydrocarbostyril, in colorless flake-like crystals. Melting point: 130°-132° C.

reactant | 6-(4-morpholino-1-butenyl)-3,4-dihydrocarbostyril | 2.2 g | O1CCN(CC1)CCC=CC=1C=C2CCC(NC2=CC1)=O | C17H22N2O2
reactant | hydrogen | [H][H] | H2
catalyst | platinum black | 0.2 g | [Pt] | Pt
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 6-(4-morpholinobutyl)-3,4-dihydrocarbostyril | 1.8 g | O1CCN(CC1)CCCCC=1C=C2CCC(NC2=CC1)=O | C17H24N2O2
